US07888338B2
b) Preparation of 1,4-dioxa-dispiro[4.1.4.3]tetradec-8-ene-9-carbaldehyde (13)
To the 7-(4-oxo-butyl)-1,4-dioxaspiro[4.5]decane-7-carbaldehyde, 12, obtained in the previous step, was added dibenzylammonium trifluoroacetate (0.4 M solution in THF; 12 mL, 4.8 mmol). The resulting mixture was stirred at room temperature for 3 hours after which the solvent was removed in vacuo. The resulting residue was purified over silica (cyclohexane/EtOAc, 8:2 mixture) to provide 2.3 g (72% yield) of the desired product as a colorless oil which was characterized as follows:

reactant | 7-(4-oxo-butyl)-1,4-dioxaspiro[4.5]decane-7-carbaldehyde | O=CCCCC1(CC2(OCCO2)CCC1)C=O | C13H20O4
reactant | dibenzylammonium trifluoroacetate | 4.8 mmol, 0.4 M, 12 mL | FC(C(=O)[O-])(F)F.C(C1=CC=CC=C1)[NH2+]CC1=CC=CC=C1
product | 1,4-dioxa-dispiro[4.1.4.3]tetradec-8-ene-9-carbaldehyde | 2.3 g, 72% yield | O1CCOC12CC1(C=C(CC1)C=O)CCC2 | C13H18O3
